Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
neck mass
 
Major Surgical or Invasive Procedure:
FNA biopsy of left neck lymph node

 
History of Present Illness:
___ is a ___ woman with a history of Parkinsons disease
who was referred to the ED from ___ for evaluation of a
rapidly enlarging neck mass and for ENT evaluation.
 
History is limited as the patient does not know much of her
medical history or recent events and the patient did not arrive
with any records from the outside hospital.  From what can be
pieced together from discussion with patient, her grandson who 
is
at her bedside as well as evaluation of medical records it
appears that the patient has been suffering from 3 days of 
severe
left-sided neck pain and difficulty swallowing.

Patient indicates about ___ weeks ago she had some difficulty
swallowing fevers as well as chills however this resolved on its
own and she has been fine since resolution of the symptoms up
until about 3 days ago.  ___ days ago she noted she started
having left-sided neck pain which radiated to her left ear and
back of her left head.  The pain was associated with significant
dysphagia and she has been unable to eat or drink for the past 2
days.  She also notes increased oral secretions without any
evidence of blood.  She denies any fevers but does describe
chills.  She has tremors from ___ which does worsen she
has fevers and chills and noted that it has been worsening last
few days as well.  She has no difficulty breathing, cough or
sputum production.  She denies any chest pain, nausea, vomiting
or diarrhea.

In the ED, initial vitals were stable.  And labs were largely
unremarkable.  Outside hospital CT was reviewed indicating a
lateral pharyngeal wall mass with lymphadenopathy.  ENT was
consulted and performed a fiberoptic examination which revealed
no mucosal lesions or masses.  It did show epiglottitis
nonedematous or erythematous and normal vocal cords.  Based on
imaging findings ENT recommended admission to medicine for 
biopsy
and expedited cancer workup.

Arrival to the floor the patient appears tired and uncomfortable
but in no acute distress.  She describes severe left-sided 
facial
and neck pain as well as significant otalgia and odynophagia. 
Denies any fevers or chills.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias.
Otherwise ROS is negative.
 
Past Medical History:
-___
-She was told in the ___ that she had cancer ___
years ago but she was never told what type she also does not
recall receiving any treatment.
-Thyroid problem for which she took medicines a few years ago, 
no longer taking these medications
-Depression
 
Social History:
___
Family History:
-All family members are healthy, no significant family history 
per patient 
 
Physical Exam:
Admission exam:
==================
Vitals: ___ 2251 Temp: 98.6 PO BP: 147/85 HR: 87 RR: 18 O2
sat: 93% O2 delivery: 1 LNC 
Pain Scale: ___ in pain located over her left ear and angle of
the mandible
General: Patient appears uncomfortable, well-nourished but
fatigued and hard of hearing. Alert, oriented and in no acute
distress  
HEENT: No gross nasal mucosa or oral lesions.  Sinuses not 
tender
to palpation. Auricle without tenderness to palpation, erythema,
or lesions. Mastoid without erythema, tenderness or pain to
palpation.  There is pain to palpation along the anterior and
inferior soft tissue surrounding her left ear.
Neck: There is pain with palpation along the left anterior
triangle particularly in the submandibular space.  There is some
tender mobile adenopathy along the left anterior cervical 
chains.
Lungs: Clear to auscultation bilaterally, moving air well and
symmetrically, no wheezes, rales or rhonchi appreciated.  There
is no stridor
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric.  There is a resting
tremor

Discharge exam:
===============
98.3 PO 121 / 78 L Lying 67 18 94 RA 
Gen - no distress, resting comfortably in bed 
HEENT - nc/at, moist oral mucosa, no oropharyngeal exudates or 
lesions 
Eyes - anicteric, PERRL, +pterygium b/l not obstructing vision 
Neck - left neck firm but non tender with no erythema or tender. 
Full strength against resistance with turning neck. +goiter (non 
tender) without palpable nodules, moves w/ swallowing 
___ - RRR, s1/2, no murmurs
Pulm - CTA b/l, no w/r/r
GI - soft, NT, ND, +BS
Ext - no peripheral edema or cyanosis
Skin - warm, dry, no rashes or lesions 
Psych - calm, cooperative 
Neuro - non focal, moving all extremities, speech clear and 
coherent 
 
Pertinent Results:
Admission labs:
=================
___ 08:01PM BLOOD WBC-8.5 RBC-3.88* Hgb-12.1 Hct-36.6 
MCV-94 MCH-31.2 MCHC-33.1 RDW-13.1 RDWSD-44.6 Plt ___
___ 08:01PM BLOOD ___ PTT-29.5 ___
___ 08:01PM BLOOD Glucose-160* UreaN-9 Creat-0.5 Na-139 
K-4.1 Cl-102 HCO3-23 AnGap-14

Notable labs:
===============

___ 08:01PM BLOOD ___ PTT-29.5 ___
___ 07:43AM BLOOD 25VitD-24*
___ 07:43AM BLOOD TSH-0.04*
___ 07:43AM BLOOD T4-8.0 T3-82 calcTBG-0.77* TUptake-1.30* 
___ Free T4-1.5
___ 03:52PM BLOOD T4-8.4 T3-98 Free T4-PND
___ 03:52PM BLOOD TSH-0.14*

Micro:
========
none

Imaging:
==========
___ CT chest w/ contrast
FINDINGS: 
 
Diffuse moderate enlargement of the thyroid.  No thyroid 
nodules.  No
suspicious soft tissue densities at the level of the thoracic 
inlet.  No
supraclavicular, infraclavicular or axillary lymphadenopathy.  
No enlarged
lymph nodes in the mediastinum or at the level of the hilar 
structures. 
Normal appearance of the large mediastinal vessels.  No 
incidental PE.  No
enlarged lymph nodes in the hilar or mediastinal compartments.  
Minimal
coronary calcifications, no valvular calcifications, no 
pericardial effusion. 
The posterior mediastinum is unremarkable.  No abnormalities are 
noted in the upper abdomen.  No osteolytic lesions at the level 
of the ribs, the sternum, or the vertebral bodies.  Mild 
degenerative vertebral disease.  No vertebral compression 
fractures. Moderate respiratory motion are defects.  No evidence 
of diffuse lung disease. No pleural effusions.  No pleural 
thickening.  No evidence of lung nodules or masses.  Bilateral 
scarring at the level of the middle lobe and the lingular (5, 
200).
 
IMPRESSION: 
 
Moderate and diffuse enlargement of a non nodular thyroid.  No 
evidence of
lymphadenopathy in the thoracic inlet.  No suspicious lung 
nodules or masses.

Procedures:
___ FNA biopsy of left cervical lymph node
NEGATIVE FOR MALIGNANT CELLS.
Polymorphous lymphocytes, consistent with lymph node sampling.

___ 05:20PM BLOOD TSH-0.10*
___ 05:20PM BLOOD T4-8.1 T3-107 Free T4-1.5
___ 07:43AM BLOOD 25VitD-24*
 
Brief Hospital Course:
Mrs. ___ is a ___ y/o female with a history of ___ 
disease, depression and possible prior malignancy diagnosed and 
treated in ___, ___ who is referred 
from ___ for expedited workup of left neck mass. 
Hospital
course significant for workup of hyperthyroidism.

# L neck mass
# Probable parapharyngeal phlegmon / soft tissue neck infection
Presented with several days of increasing odynophagia, 
left-sided otalgia, and some left neck swelling w/ induration, 
as well as fevers. ENT evaluated recommended ___ biopsy 
and CT chest for screening/staging, as well as IV abx (unasyn) 
and 24 hours of IV steroids (dexamethasone). She underwent 
___ FNA bx on ___ (path returned negative for malignancy), 
CT chest done was normal except for diffuse thyroid swelling. 
She had rapid clinical improvement with steroids and abx, with 
resolution of all of her symptoms. Is tolerating regular diet 
without issues. ENT re-evaluated on ___ and ultimately decided 
they thought this was most likely an infection, resolving with 
IV abx. Advised no further invasive procedures and OK to 
transition to PO abx for total 10 days. Switched over to PO 
augmentin on ___. She was discharged on augmentin to complete 
10 day course (last dose on ___. ENT recommended f/u in ___ 
clinic in ___ weeks.

# Hyperthyroidism with goiter: mild goiter on CT chest. TSH 
checked and low. Consulted Endo: thyroid studies sent off, 
started methimazole 5 mg. Endocrine follow up scheduled for 
___. Will also need a CBC within the next few weeks to check 
WBC, as methimazole is known to cause neutropenia. Labs to be 
drawn ___ days before endocrine visit and faxed to ___ 
clinic, Rx provided by endocrine team and given to patient 
before discharge. 

# PD: continued on home regimen
# Depression: continued on home regimen
# Low vitamin D: started on vitamin D 2000units daily 

# Disposition: discharge home given clinical improvement

Time spent: 45 minutes 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 25 mg PO QHS 
2. Stalevo 150 (carbidopa-levodopa-entacapone) 37.5-150-200 mg 
oral QID 
3. FLUoxetine 20 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO BID Duration: 7 Days 
last dose ___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*12 Tablet Refills:*0 
2.  Methimazole 5 mg PO DAILY 
RX *methimazole 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Vitamin D ___ UNIT PO DAILY 
RX *cholecalciferol (vitamin D3) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
4.  FLUoxetine 20 mg PO DAILY  
5.  QUEtiapine Fumarate 25 mg PO QHS  
6.  Stalevo 150 (carbidopa-levodopa-entacapone) 37.5-150-200 mg 
oral QID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Parapharyngeal phlegmon
# Soft tissue neck infection
# Hyperthyroidism with goiter
# Low vitamin D 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital with pain in your throat, left 
ear, and swelling in your neck.  ___ were evaluated by the ENT 
doctors who advised ___ a biopsy. The biopsy was normal. At 
the same time ___ treated with antibiotics because this was a 
potential infection.  Your symptoms got better and the ENT team 
now thinks that your symptoms were most likely due to an 
infection. ___ are being discharged on an antibiotic 
(Augmentin), please complete the full course of this. We 
recommend that ___ take this medication with food to minimize 
upset stomach. Please plan to follow up with the ENT doctors in 
___ in ___ weeks.

While ___ were in the hospital, ___ underwent a CT scan of the 
chest, which was normal except for showing an enlarged thyroid. 
Your thyroid studies were checked and abnormal. ___ were 
evaluated by the Endocrinology doctors, who advise starting a 
new medication, called methimazole.  Please take this medication 
and plan to follow up with the Endocrinology doctors in ___ week 
at your appointment. If ___ experience rash or fever please stop 
taking methimazole immediately and call ___ or call the 
main hospital line and ask for the Endocrine Fellow on Call. 

___ will also be started on vitamin D supplements as your 
vitamin D level is low. Please make sure ___ see your PCP ___ 
___ weeks for a check up after your hospital discharge. Please 
have your records faxed from your PCP to the ___ clinic 
(___). 

It has been a pleasure to care for ___ in the hospital. We wish 
___ the best!

Sincerely, 
Your care team at ___ 
 
Followup Instructions:
___